US07230031B2
4-(4-methoxyphenoxy)-5-methyl-7-nitroindane (197 mg) and 4-fluorobenzoyl chloride (194 μL) were dissolved in dichloromethane (3.9 mL). Titanium tetrachloride (360 μL) was added dropwise to the solution under ice-cooling with stirring. The mixture was stirred under an argon atmosphere at room temperature for 15 hours. Adding water, the reaction mixture was extracted with ethyl acetate. The organic layer was washed with a saturated aqueous solution of sodium hydrogen carbonate, water and brine successively, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: hexane/ethyl acetate=9/1) to give (4-fluorophenyl)-[2-methoxy-5-(5-methyl-7-nitroindan-4-yloxy)phenyl]methanone (155 mg).

reactant | 4-(4-methoxyphenoxy)-5-methyl-7-nitroindane | 197 mg | COC1=CC=C(OC2=C3CCCC3=C(C=C2C)[N+](=O)[O-])C=C1 | C17H17NO4
reactant | 4-fluorobenzoyl chloride | 194 μL | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
solvent | dichloromethane | 3.9 mL | ClCCl | CH2Cl2
catalyst | Titanium tetrachloride | 360 μL | [Ti](Cl)(Cl)(Cl)Cl
product | (4-fluorophenyl)-[2-methoxy-5-(5-methyl-7-nitroindan-4-yloxy)phenyl]methanone | 155 mg | FC1=CC=C(C=C1)C(=O)C1=C(C=CC(=C1)OC1=C2CCCC2=C(C=C1C)[N+](=O)[O-])OC | C24H20FNO5
